US08372307B2
A solution of 2-(4-propyl-cyclohexylmethyl)-butyric acid ethyl ester (35.0 g, 138 mmol) in THF (300 ml) is added dropwise to a suspension of lithium-aluminiumhydride (6 g, 158 mmol) in THF (300 ml) at reflux temperature. The reaction mixture is heated under reflux for 1 h, cooled and poured onto sat. ammonium chloride solution. The mixture is acidified, extracted with ether and the combined organic layers are washed with brine and dried over sodium sulfate. The solvent is evaporated and the crude product is crystallised from isopropanol to give 2-(4-propyl-cyclohexylmethyl)-butan-1-ol as colourless crystals.

reactant | 2-(4-propyl-cyclohexylmethyl)-butyric acid ethyl ester | 138 mmol, 35.0 g | C(C)OC(C(CC)CC1CCC(CC1)CCC)=O | C16H30O2
reactant | lithium-aluminiumhydride | 158 mmol, 6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 2-(4-propyl-cyclohexylmethyl)-butan-1-ol | C(CC)C1CCC(CC1)CC(CO)CC | C14H28O
